US07973026B2
Step 5: methyl 6-(2-hydroxycyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate
A 2M solution in THF of borane dimethylsulfide complex (1.5 eq.) was added at 0° C. to a 0.1M solution of methyl 6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylate in dry THF, and the mixture was stirred at RT for 7 h. After cooling to 0° C., the mixture was treated with 3M aq. NaOH (3 eq.) and 35% hydrogen peroxide (4 eq.). The mixture was allowed to warm to RT overnight. Aq. NaHCO3-solution was added and the mixture was extracted with EtOAc; the organic layer was washed with water and brine, dried over Na2SO4 and concentrated. Chromatography (PE/EtOAc) afforded the title compound (56%). 1H-NMR (300 MHz, CDCl3, 300 K, δ) 8.30 (bs, 1H), 7.68 (s, 1H), 7.08 (d, 1H, J 2.0), 3.89 (s, 3H), 3.70-3.65 (m, 1H), 2.58-2.49 (m, 1H), 2.16-2.12 (m, 1H), 1.98-1.65 (m, 4H), 1.47-1.23 (m, 3H); MS (ES+) m/z 280 (M+H)+.

reactant | methyl 6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(=CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC | C14H15NO2S
reactant | NaOH | 3M, 3 eq. | [OH-].[Na+]
reactant | hydrogen peroxide | 4 eq. | OO | H2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | methyl 6-(2-hydroxycyclohexyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 56% | OC1C(CCCC1)C=1C2=C(NC1)C=C(S2)C(=O)OC | C14H17NO3S
